US04288443
5-(Dimethylaminomethyl)-4-methoxymethyl-2-furanmethanol
A mixture of 3-methoxymethyl-N,N-dimethyl-2-furanmethanamine (7 g), acetic acid (60 ml), concentrated hydrochloric acid (30 ml) and paraformaldehyde (3.7 g) was stirred at ambient temperature for 5 hours. The mixture was basified with sodium carbonate, and extracted with diethyl ether (200 ml). The ethereal extract was dried over anhydrous sodium sulphate and the solvent evaporated in vacuo. The residue was distilled affording the title compound (3.5 g) as an off-white waxy solid, b.p. 90°/5×10-2 mm Hg.

reactant | 3-methoxymethyl-N,N-dimethyl-2-furanmethanamine | 7 g | COCC1=C(OC=C1)CN(C)C | C9H15NO2
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | paraformaldehyde | 3.7 g | C=O | CH2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 5-(Dimethylaminomethyl)-4-methoxymethyl-2-furanmethanol | 3.5 g | CN(C)CC1=C(C=C(O1)CO)COC | C10H17NO3
